US06015774
Then, 3.6 g of concentrated sulfuric acid was added to 0.33 g of water, to which 15.0 g of 2-amino-2-(2,4-dichloro-5-methoxyphenyl)acetonitrile was added under ice cooling, and the mixture was heated at 50° to 60° C. under stirring for 3 hours. After completion of the reaction, the reaction mixture was poured into 15 ml of concentrated ammonia water cooled with ice in such a manner that the temperature of the solution became not higher than 20° C. The precipitated crystals were collected by filtration, and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and concentrated. The residue was combined with the previously collected crystals, followed by recrystallization, which afforded 7.42 g (yield, 46%) of 2-amino-2-(2,4-dichloro-5-methoxyphenyl)acetamide.

reactant | sulfuric acid | 3.6 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-amino-2-(2,4-dichloro-5-methoxyphenyl)acetonitrile | 15.0 g | NC(C#N)C1=C(C=C(C(=C1)OC)Cl)Cl | C9H8Cl2N2O
reactant | ammonia water | 15 ml | O.N
solvent | water | 0.33 g | O | H2O
product | 2-amino-2-(2,4-dichloro-5-methoxyphenyl)acetamide | 7.42 g, 46% | NC(C(=O)N)C1=C(C=C(C(=C1)OC)Cl)Cl | C9H10Cl2N2O2
